US06762321B2
2.25 g (5.49 mmol) of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(4-chlorophenyl)acetamide and 2.39 g (13.73 mmol) of t-butoxybis(dimethylamino) methane were mixed and stirred at 90° C. for 1.5 hours. The reaction mixture was cooled and tetrahydrofuran was added thereto. The reaction mixture was acidified with 5% hydrochloric acid and stirred at room temperature for 2 hours. After the solvent was distilled off under reduced pressure, water and 5% hydrochloric acid were added to the residue, which was followed by extracted with ethyl acetate, washed with saturated brine twice, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=2:1) to give 1.50 g of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(4-chlorophenyl)acrylamide.

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(4-chlorophenyl)acetamide | 5.49 mmol, 2.25 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(CC1=CC=C(C=C1)Cl)=O)OC | C24H24ClNO3
reactant | t-butoxybis(dimethylamino) methane | 13.73 mmol, 2.39 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(4-chlorophenyl)acrylamide | 1.50 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=CO)C1=CC=C(C=C1)Cl)=O)OC | C25H24ClNO4
